US04117128
Acylation of 2-benzyl-5-ethylbenzofuran with 4-methoxybenzenesulfonyl chloride followed by demethylation of the product thus formed as previously described gives 2-benzyl-5-ethyl-3-(4-hydroxyphenylsulfonyl)benzofuran.

reactant | 2-benzyl-5-ethylbenzofuran | C(C1=CC=CC=C1)C=1OC2=C(C1)C=C(C=C2)CC | C17H16O
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 2-benzyl-5-ethyl-3-(4-hydroxyphenylsulfonyl)benzofuran | C(C1=CC=CC=C1)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)O)C=C(C=C2)CC | C23H20O4S
